**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Flexible Transformer for DC/DC Converter
* Matchcode:              WE-FLEX+
* Library Type:           LTspice
* Version:                rev22b
* Created/modified by:    Toby    
* Date and Time:          2022-05-23
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
************ WE-FLEX+-ETD29 ****************
.Subckt WE-FLEX+_ETD29_749197101 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=71u 
+ Lm=70.4m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {4005/100000000}
+ Rbase = 0.045*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 11
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD29_749197101

.Subckt WE-FLEX+_ETD29_749197111 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=71u 
+ Lm=70.4m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {12829/100000000}
+ Rbase = 0.045*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 11
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD29_749197111

.Subckt WE-FLEX+_ETD29_749197121 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=71u 
+ Lm=70.4m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {21777/100000000}
+ Rbase = 0.045*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 11
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD29_749197121

.Subckt WE-FLEX+_ETD29_749197131 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=71u 
+ Lm=70.4m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {42889/100000000}
+ Rbase = 0.045*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 11
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD29_749197131

.Subckt WE-FLEX+_ETD29_749197141 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=71u 
+ Lm=70.4m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {71998/100000000}
+ Rbase = 0.045*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 11
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD29_749197141


************ WE-FLEX+-ETD34 ****************
.Subckt WE-FLEX+_ETD34_749197201 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=91.6u 
+ Lm=78.6m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {2711/100000000}
+ Rbase = 0.051*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 12
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD34_749197201

.Subckt WE-FLEX+_ETD34_749197211 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=91.6u 
+ Lm=78.6m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {12844/100000000}
+ Rbase = 0.051*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 12
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD34_749197211

.Subckt WE-FLEX+_ETD34_749197221 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=91.6u 
+ Lm=78.6m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {22165/100000000}
+ Rbase = 0.051*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 12
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD34_749197221

.Subckt WE-FLEX+_ETD34_749197231 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=91.6u 
+ Lm=78.6m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {44196/100000000}
+ Rbase = 0.051*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 12
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD34_749197231

.Subckt WE-FLEX+_ETD34_749197241 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=91.6u 
+ Lm=78.6m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {73624/100000000}
+ Rbase = 0.051*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 12
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD34_749197241


************ WE-FLEX+-ETD39 ****************
.Subckt WE-FLEX+_ETD39_749197301 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=123u 
+ Lm=92.2m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {3710/100000000}
+ Rbase = 0.034*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.35u
+ Trn = 11
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD39_749197301


.Subckt WE-FLEX+_ETD39_749197311 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=123u 
+ Lm=92.2m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {12538/100000000}
+ Rbase = 0.034*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.35u
+ Trn = 11
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD39_749197311


.Subckt WE-FLEX+_ETD39_749197321 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=123u 
+ Lm=92.2m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {22178/100000000}
+ Rbase = 0.034*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.35u
+ Trn = 11
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD39_749197321


.Subckt WE-FLEX+_ETD39_749197331 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=123u 
+ Lm=92.2m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {45451/100000000}
+ Rbase = 0.034*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.35u
+ Trn = 11
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD39_749197331


.Subckt WE-FLEX+_ETD39_749197341 PR1 PR2 PS1 PS2 params: temp=25 config_P=1 config_S=1
.param 
+ A=123u 
+ Lm=92.2m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {76878/100000000}
+ Rbase = 0.034*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.35u
+ Trn = 11
+ PR= tbl(config_P,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ PL= tbl(config_P,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
+ SR= tbl(config_S,1,1,2,0.5,3,0.333,4,2,5,3,6,4,7,5,8,1,9,1.5,10,0.25,11,0.2)
+ SL= tbl(config_S,1,1,2,1,3,1,4,2,5,3,6,4,7,5,8,2,9,2,10,1,11,1)
LPf1 PR1 N001 {Llkgbase*(PL**2)}
LSf1 N003 PS2 {Llkgbase*(SL**2)}
RPp PR1 PR2 1meg
RSp PS2 PS1 1meg
RP1 N004 PR2 {Rbase*PR}
RS1 PS1 N005 {Rbase*SR}
CSp PS2 PS1 10p
CPp PR1 PR2 10p
G1 0 N002 N001 N004 {1/PL}
G2 0 N002 N003 N005 {1/SL}
R1 N002 0 1Meg
G3 N005 N003 N002 0 {1/SL}
G4 N004 N001 N002 0 {1/PL}
Lp N001 N004 Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn*PL}
Rg1 PR1 0 20meg
Rg2 PS2 0 20meg
.ends WE-FLEX+_ETD39_749197341